US07223791B2
A mixture of N-benzylidene-4-trifluoromethylbenzenecarbohydrazonoyl chloride (1.55 g), methyl 4-thiocarbamoylbenzoate (0.976 g) and methanol (50 ml) was stirred at 50° C. for 2 hrs. After cooling, the crystals were collected by filtration to give methyl 4-[5-(4-trifluoromethylphenyl)-1,3,4-thiadiazol-2-yl]benzoate (1.03 g, yield 57%) as a colorless crystalline powder. melting point: 218–219° C.

reactant | N-benzylidene-4-trifluoromethylbenzenecarbohydrazonoyl chloride | 1.55 g | C(C1=CC=CC=C1)=NN=C(C1=CC=C(C=C1)C(F)(F)F)Cl | C15H10ClF3N2
reactant | methyl 4-thiocarbamoylbenzoate | 0.976 g | C(N)(=S)C1=CC=C(C(=O)OC)C=C1 | C9H9NO2S
solvent | methanol | 50 ml | CO | CH4O
product | methyl 4-[5-(4-trifluoromethylphenyl)-1,3,4-thiadiazol-2-yl]benzoate | 1.03 g, yield 57% | FC(C1=CC=C(C=C1)C1=NN=C(S1)C1=CC=C(C(=O)OC)C=C1)(F)F | C17H11F3N2O2S
